US06294558B1
4-(Methylsulfonyl)-3-(trifluoromethyl)nitrobenzene (step 1)
A mixture of 2-fluoro-5-nitrobenzotrifluoride (2.09 g, 10 mmol) and sodium methanesulfinate (1.32 g, 11 mmol) in DMSO (20 mL) was heated at 130° C. for 17.5 hours. After cooling down to room temperature, the mixture was poured into ice-water. The whole was extracted with ethyl acetate (30 mL×2), the combined organic layer washed with water, brine, dried over MgSO4, and concentrated in vacuo. The residue was crystallized from hexane to give the subtitle compound (1.56 g, 57.8%, yield).

reactant | 2-fluoro-5-nitrobenzotrifluoride | 10 mmol, 2.09 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H3F4NO2
reactant | sodium methanesulfinate | 11 mmol, 1.32 g | CS(=O)[O-].[Na+]
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 4-(Methylsulfonyl)-3-(trifluoromethyl)nitrobenzene | 1.56 g, 57.8% | CS(=O)(=O)C1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C8H6F3NO4S
